* Simple RLC Series Circuit - AC Analysis Test
V1 IN 0 AC 1
R1 IN N1 100
L1 N1 N2 10mH
C1 N2 0 1uF

.PREPROCESS REPLACEGROUND TRUE
.AC OCT 20 1 100k
.PRINT AC FORMAT=RAW FILE=ac-simple-03.raw V(*) I(*)

.END
