* Simple DC Sweep Example for Xyce
V1 1 0 DC 0V
R1 1 2 1k
R2 2 0 2k

.PREPROCESS REPLACEGROUND TRUE
.DC V1 0 5 0.5
.PRINT DC FORMAT=RAW FILE=dc-sweep-01.raw V(*) I(*)

.END
